US08309546B2
5-{9-(Cyclopropylmethyl)-8-[4-(1H-imidazol-1-ylacetyl)piperazin-1-yl]-6-morpholin-4-yl-9H-purin-2-yl}pyrimidin-2-amine
1-Hydroxybenzotriazole monohydrate (38.2 mg, 0.25 mmol), 1-(dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (71.8 mg, 0.37 mmol), and triethylamine (52.2 μl, 0.37 mmol) were added to an N,N-dimethylformamide suspension (3.0 ml) of 5-[9-(cyclopropylmethyl)-6-morpholin-4-yl-8-piperazin-1-yl-9H-purin-2-yl]pyrimidin-2-amine (109.0 mg, 0.25 mmol) and imidazol-1-ylacetic acid (37.8 mg, 0.30 mmol) at room temperature. The resulting mixture was stirred for 17.5 hours and the reaction mixture was poured into dichloromethane-methanol (10:1), washed with saturated aqueous sodium hydrogen carbonate solution, and dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure and the resulting residue was purified by preparative thin layer silica gel chromatography (dichloromethane:methanol=6:1) to give the title compound (108.0 mg, 79%) as a pale yellow solid.

reactant | 1-Hydroxybenzotriazole monohydrate | 0.25 mmol, 38.2 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.37 mmol, 71.8 mg | Cl.CN(C)CCCN=C=NCC
reactant | triethylamine | 0.37 mmol, 52.2 μl | C(C)N(CC)CC | C6H15N
reactant | 5-[9-(cyclopropylmethyl)-6-morpholin-4-yl-8-piperazin-1-yl-9H-purin-2-yl]pyrimidin-2-amine | 0.25 mmol, 109.0 mg | C1(CC1)CN1C2=NC(=NC(=C2N=C1N1CCNCC1)N1CCOCC1)C=1C=NC(=NC1)N | C21H28N10O
reactant | imidazol-1-ylacetic acid | 0.30 mmol, 37.8 mg | N1(C=NC=C1)CC(=O)O | C5H6N2O2
solvent | dichloromethane methanol | ClCCl.CO
solvent | N,N-dimethylformamide | 3.0 ml | CN(C=O)C | C3H7NO
product | 5-{9-(Cyclopropylmethyl)-8-[4-(1H-imidazol-1-ylacetyl)piperazin-1-yl]-6-morpholin-4-yl-9H-purin-2-yl}pyrimidin-2-amine | 108.0 mg, 79% | C1(CC1)CN1C2=NC(=NC(=C2N=C1N1CCN(CC1)C(CN1C=NC=C1)=O)N1CCOCC1)C=1C=NC(=NC1)N | C26H32N12O2
